US07091220B2
[(4-tert-Butyl-phenyl)-(1-methyl-1H-indol-3-yl)-methyl]-dimethyl-amine
The preparation was carried out in accordance with general synthesis instructions 4 from 1-methylindole and (4-tert-butyl-benzylidene)-dimethyl-ammonium chloride, which had been prepared in accordance with example 24 from 4-tert-butyl-benzaldehyde and dimethylamine.

reactant | 1-methylindole | CN1C=CC2=CC=CC=C12 | C9H9N
reactant | (4-tert-butyl-benzylidene)-dimethyl-ammonium chloride | [Cl-].C(C)(C)(C)C1=CC=C(C=[N+](C)C)C=C1
reactant | 4-tert-butyl-benzaldehyde | C(C)(C)(C)C1=CC=C(C=O)C=C1 | C11H14O
reactant | dimethylamine | CNC | C2H7N
product | [(4-tert-Butyl-phenyl)-(1-methyl-1H-indol-3-yl)-methyl]-dimethyl-amine | C(C)(C)(C)C1=CC=C(C=C1)C(C1=CN(C2=CC=CC=C12)C)N(C)C | C22H28N2
